US09340549B2
A microwave vial was charged with 5,5-dimethyl-4-(pyridin-3-yl)oxazolidin-2-one (0.072 g, 0.376 mmol), 4-iodo-N-(quinolin-8-yl)benzamide (0.155 g, 0.414 mmol), tribasic potassium phosphate (0.399 g, 1.880 mmol) and dioxane (3.50 mL). The mixture was purged with argon and then copper (I) iodide (0.072 g, 0.376 mmol) and N,N′-dimethylethylenediamine (0.081 mL, 0.752 mmol) were added. The system was purged with argon, the tube was sealed, and the reaction mixture was heated at 140° C. for 1 hour in a microwave. The reaction mixture was filtered through Celite® brand filter aid and the filtrate was concentrated to afford an orange brown solid. This residual material was purified by column chromatography on silica gel (RediSep 40 g column, gradient elution with 50-100% EtOAc-hexane) to afford (+/−)-(R/S)-4-(5,5-dimethyl-2-oxo-4-(pyridin-3-yl)oxazolidin-3-yl)-N-(quinolin-8-yl)benzamide (0.092 g, 0.210 mmol, 56% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.98 (s, 3H), 1.69 (s, 3H), 5.69 (s, 1H), 7.40 (dd, J=8.02, 4.79 Hz, 1H), 7.57-7.79 (m, 6H), 7.90-8.04 (m, 2H), 8.45 (dd, J=8.31, 1.66 Hz, 1H), 8.54 (dd, J=4.74, 1.61 Hz, 1H), 8.60 (br. s., 1H), 8.67 (dd, J=7.63, 1.27 Hz, 1H), 8.95 (dd, J=4.25, 1.71 Hz, 1H), 10.56 (s, 1H). m/z (ESI) 439 (M+H)+.

reactant | 5,5-dimethyl-4-(pyridin-3-yl)oxazolidin-2-one | 0.376 mmol, 0.072 g | CC1(C(NC(O1)=O)C=1C=NC=CC1)C | C10H12N2O2
reactant | 4-iodo-N-(quinolin-8-yl)benzamide | 0.414 mmol, 0.155 g | IC1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1 | C16H11IN2O
reactant | potassium phosphate | 1.880 mmol, 0.399 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 0.752 mmol, 0.081 mL | CNCCNC | C4H12N2
catalyst | copper (I) iodide | 0.376 mmol, 0.072 g | [Cu]I
solvent | dioxane | 3.50 mL | O1CCOCC1 | C4H8O2
product | (+/−)-(R/S)-4-(5,5-dimethyl-2-oxo-4-(pyridin-3-yl)oxazolidin-3-yl)-N-(quinolin-8-yl)benzamide | 0.210 mmol, 0.092 g, 56% yield | CC1(C(N(C(O1)=O)C1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1)C=1C=NC=CC1)C | C26H22N4O3
